US03939166
4-Chloro-7-nitro-2,5-bis(trifluoromethyl)benzimidazole is reacted with dibutylamine to obtain 4-(dibutylamino)-7-nitro-2,5-bis(trifluoromethyl)benzimidazole, m.w., 426.4.

reactant | 4-Chloro-7-nitro-2,5-bis(trifluoromethyl)benzimidazole | ClC1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])C(F)(F)F | C9H2ClF6N3O2
reactant | dibutylamine | C(CCC)NCCCC | C8H19N
product | 4-(dibutylamino)-7-nitro-2,5-bis(trifluoromethyl)benzimidazole | C(CCC)N(C1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])C(F)(F)F)CCCC | C17H20F6N4O2
